US07132419B2
Acetic acid 11-(2-dimethylamino-ethylcarbamoyl)-benzo[a]phenazin-4-yl ester
A mixture of 4-hydroxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide: hydrobromide salt (45 mg), triethylamine (71 μL) and acetyl chloride (20 μL) in dichloromethane (1.4 mL) was stirred at room temperature for 2 hours. All volatiles were removed in vacuo and the residue was purified using column chromatography (10% methanol in dichloromethane) to yield the title compound as a yellow solid (27 mg).

reactant | 4-hydroxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4O)C | C21H20N4O2
reactant | triethylamine | 71 μL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 20 μL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 1.4 mL | ClCCl | CH2Cl2
product | Acetic acid 11-(2-dimethylamino-ethylcarbamoyl)-benzo[a]phenazin-4-yl ester | 27 mg | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OC(C)=O)C | C23H22N4O3
